US05198208
5,9-Bis(benzyloxymethyl)-1-thia-4,7,10-triazacyclododecane (0.28 g, 0.65 mmol) was dissolved in methanol (10 ml). Ammonium formate (0.39 g) and 10% Palladium on carbon (1.3 g) were added under nitrogen and the mixture was stirred at 50° C. for 16 hours. The catalyst was filtered off and washed with methanol (5 ml). The filtrate was evaporated and 5,9-bis(hydroxymethyl) -1-thia-4,7,10-triazacyclododecane was isolated as a white solid. Mp. 210°-220° C. (subl.). Yield: 0.099 g (61%).

reactant | 5,9-Bis(benzyloxymethyl)-1-thia-4,7,10-triazacyclododecane | 0.65 mmol, 0.28 g | C(C1=CC=CC=C1)OCC1NCCSCCNC(CNC1)COCC1=CC=CC=C1 | C24H35N3O2S
reactant | Ammonium formate | 0.39 g | C(=O)[O-].[NH4+]
solvent | methanol | 10 ml | CO | CH4O
catalyst | Palladium on carbon | 1.3 g | [Pd] | Pd
product | 5,9-bis(hydroxymethyl) -1-thia-4,7,10-triazacyclododecane | OCC1NCCSCCNC(CNC1)CO | C10H23N3O2S
